US08791132B2
A mixture of 5-(1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-hydroxypropan-2-yl)picolinonitrile (300 mg, 0.833 mmol), crushed KOH (140 mg, 2.499 mmol) in 12 mL tert-butanol was heated at 80° C. for 2 h. The reaction was monitored by TLC. The reaction mixture was allowed to cool at RT, diluted with brine (30 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layer was washed with water (3×100 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by Preparative HPLC followed by chiral HPLC to obtain 5-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridine-2-carboxamide. 1H NMR (CDCl3, freebase) δ (ppm): 8.49 (s, 1H), 8.04 (d, 1H), 7.86 (d, 1H), 7.66 (s, 1H), 7.01 (s, 1H), 6.85 (s, 1H), 6.78 bs (NH), 5.48 s (OH),4.16 (dd, 2H), 3.44 (q, 2H), 2.9 (m, 2H), 2.7 (m, 2H), 2.45 (s, 3H), 2.35 (s, 3H), 2.35 (s, 3H), 1.6 (s, 3H). Separation by chiral HPLC provided enantiomers II-136a-b.

reactant | 5-(1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-hydroxypropan-2-yl)picolinonitrile | 0.833 mmol, 300 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=CC(=NC2)C#N)CC1 | C22H24N4O
reactant | KOH | 2.499 mmol, 140 mg | [OH-].[K+]
solvent | tert-butanol | 12 mL | C(C)(C)(C)O | C4H10O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 5-(1-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-2-hydroxypropan-2-yl)pyridine-2-carboxamide | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C=2C=CC(=NC2)C(=O)N)CC1 | C22H26N4O2
